data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1CC(C2C([C:22]1=[O+:23][Li-][N:10](C(C)C)C(C)C)O2)(C)C>>[H:20][N+:10]([Li-][O:23][C:22]1=[CH:21]CC(C2C1O2)(C)C)(C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
[H:20][NH+:21](C)C1(CC2(CCC(=O)CC2O1)C3=CC(=C(C=C3)OC)OC)[O-].C[NH2:10]>>[H:20][NH2+:10]C.C[NH:21]C1(CC2(CCC(=O)CC2O1)C3=CC(=C(C=C3)OC)OC)[O-] 10=20;20,21=21
CCCC[P:10](CCCC)CCCC.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>CCCC[P+:10](CCCC)(CCCC)[CH2:20]C1=CC=C(C=C1)C#N.[Br-:21] 10=20;20,21=21
C1CO[C:20](OC1)([OH:21])[O-:10]>>C1CO[C:20](=[O:10])OC1.[OH-:21] 10=20;20,21=21
CC1(CCC[C:10]2(C1CC[C:11]2([C:20]3=[O+:21]C(CC3)(C)C=C)[OH:12])C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1(CCC[C:10]2(C1CC[C:11](=[OH+:12])[C:20]23CCC([O:21]3)(C)C=C)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][C:21](Cl)(Cl)Cl.[OH:10][Na].CC1=C(C=C(C=C1)C(C)C)O.C1=CC(=C(C(=C1)O)Cl)Cl.O>>[H:20][OH+:10][Na].[C-:21](Cl)(Cl)Cl.CC1=C(C=C(C=C1)C(C)C)O.C1=CC(=C(C(=C1)O)Cl)Cl.O 10=20;20,21=21
C[Si-:11](C)(C)([CH2:10][C+:20]=C)OS(=O)(=O)C>>C=[C:20]=[CH2:10].C[Si:11](C)(C)OS(=O)(=O)C 10,11=10,20
[H:20][OH2+:21].C[N:10]=CC=C>>[H:20][N+:10](=CC=C)C.[OH2:21] 10=20;20,21=21
[H:20][CH:21]1CCCC(=O)[C:23](=[CH:22]1)[C:24](=[O:25])OC.C[O-:10].[HH].CC(=O)C=C.[Na+]>>[H:20][O:10]C.CO[C:24](=[C:23]1[CH:22]=[CH:21]CCCC1=O)[O-:25].[HH].CC(=O)C=C.[Na+] 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][O:21]CCC(C)C.[H:10][Na:11]>>CC(C)CC[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
C[C:20]([OH:10])(OC)[SH2+:21]>>C[C:20](=[OH+:10])OC.[SH2:21] 10=20;20,21=21
[H:20][C:21]12CCC[N+:23](=[C:22]1C(=CC2C)OCC)C(=O)OCC3=CC=CC=C3.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.CCOC1=CC([C:21]2=[C:22]1[N:23](CCC2)C(=O)OCC3=CC=CC=C3)C 10=20;22,23=23;20,21=21,22
[CH:20](=[OH+:21])O.[SH2:10]>>[CH:20](O)([OH:21])[SH2+:10] 10=20;20,21=21
C[CH+:20]C.[CH:11]1=[CH:10]OC(=C1)Br>>C[CH:20](C)[CH:10]1[CH+:11]C=C(O1)Br 10,11=10,20
[H:20][O:21]C(=CC(=O)N(C)C)CC1=CC=CC=C1.CC[O-:10]>>[H:20][O:10]CC.CN(C)C(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
C[S+](C)[O-:10].C1=CC=C(C=C1)[CH2:20][Br:21].C(=O)(O)[O-]>>C[S+](C)[O:10][CH2:20]C1=CC=CC=C1.[Br-:21].C(=O)(O)[O-] 10=20;20,21=21
CC1=C([C:10](=[C:20](C=C1)[O:21]S(=O)(=O)C(F)(F)F)[Si-:11](C)(C)(C)F)OC.CCOC(=O)CBr.CC1=CC=C(C=C1)S(=O)CC=C>>CC1=C([C:10]#[C:20]C=C1)OC.C[Si:11](C)(C)F.C(F)(F)(F)S(=O)(=O)[O-:21].CCOC(=O)CBr.CC1=CC=C(C=C1)S(=O)CC=C 10,11=10,20;20,21=21
CC1=CC[C:20]([N:10]1C2=C(C=CC=C2)Br)(C)[OH2+:21].CC(=O)[O-].O>>C[C:20]1=[N+:10](C(=CC1)C)C2=C(C=CC=C2)Br.[OH2:21].CC(=O)[O-].O 10=20;20,21=21
[H:20][CH:21]1C2C3CC4=C5C2(CCN3CC=C)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.COC1=C2C3=C(CC4C5C3(CCN4CC=C)C(O2)C([CH:22]=[CH:21]5)(OC)OC)C=C1.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C1CCCCC12CCCCC2O[Al-](C(C)C)(C(C)C)C(C)C.[OH2:10]>>[H:20][OH2+:10].CC(C)[Al-](C(C)C)(C(C)C)OC1CCCCC12CCCCC2=[O:21] 10=20;20,21=21
C[CH+:20]C.[CH:10]1=[CH:11]OC(=C1)C(F)(F)F>>C[CH:20](C)[CH:10]1C=C(O[CH+:11]1)C(F)(F)F 10,11=10,20
C1CCC(CC1)[NH+:21]=[C:20]=NC2CCCCC2.C1=CC=C(C=C1)CC(=O)[O-:10].CCOC(=O)CC=CCO.C1CCN(C1)C2=CC=NC=C2>>C1CCC(CC1)[NH:21][C:20](=NC2CCCCC2)[O:10]C(=O)CC3=CC=CC=C3.CCOC(=O)CC=CCO.C1CCN(C1)C2=CC=NC=C2 10=20;20,21=21
[H:20][OH+:21]C.C[O:10][Si-](C)(C)(C)Cl>>[H:20][O+:10](C)[Si-](C)(C)(C)Cl.C[OH:21] 10=20;20,21=21
[Li-]([NH+](C(C)C)C(C)C)[N:12]([C:11]1=[CH:10]CCC(=C1)C)N2CCCC2COC.COC(CC[CH2:20][I:21])OC>>[Li-]([NH+](C(C)C)C(C)C)[N+:12](=[C:11]1C=C(CC[CH:10]1[CH2:20]CCC(OC)OC)C)N2CCCC2COC.[I-:21] 10,11=10,20;12=11;20,21=21
C[C:20](=[O+:21]C1C(OC(C(C1O)OC(=O)C)OCC=C)COC(=O)C)C.[OH2:10].CC(=O)[O-]>>CC(=O)OCC1C(C(C(C(O1)OCC=C)OC(=O)C)O)[O:21][C:20](C)(C)[OH2+:10].CC(=O)[O-] 10=20;20,21=21
CCC1CC2[CH:20]([S+:21]2C)CC1CCC3=CC=CC=C3.[NH3:10].[B-](F)(F)(F)F.CSC>>CCC1CC([CH:20](CC1CCC2=CC=CC=C2)[NH3+:10])[S:21]C.[B-](F)(F)(F)F.CSC 10=20;20,21=21
C[CH:20]([NH:10]C)[Cl:21]>>C[CH:20]=[NH+:10]C.[Cl-:21] 10=20;20,21=21
C[CH:20](C)[Br:21].[CH-:10](C#N)C#N>>C[CH:20](C)[CH:10](C#N)C#N.[Br-:21] 10=20;20,21=21
C[NH2:10].CO[CH:20]=[O+:21]C.[Cl-]>>C[NH2+:10][CH:20](OC)[O:21]C.[Cl-] 10=20;20,21=21
CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O-:10].C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]CC4=CC=C(C=C4)N(=O)=O.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O:10][CH2:20]CC4=CC=C(C=C4)N(=O)=O.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
[H:20][CH2:21]C1=CC=NC=C1.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.[CH2-:21]C1=CC=NC=C1 10=20;20,21=21
[H:20][OH:21].COC1=C(C2=C(CC3C4(C2(CCN3CC5=CC=CC=C5)C=CCC4)O)C=C1)[O-:10].N#N.[K+]>>[H:20][O:10]C1=C(C=CC2=C1C34CCN(C(C2)C3(CCC=C4)O)CC5=CC=CC=C5)OC.[OH-:21].N#N.[K+] 10=20;20,21=21
[H:20][O+:21](CCC1CO1)C(CCO)CO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1C(O1)CC[O:21]C(CCO)CO 10=20;20,21=21
[H:20][O+:21](CC(CO)O)C(C)(CC)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CCC(C)(O)[O:21]CC(CO)O 10=20;20,21=21
